US08859580B2
1-Methyl-11-aza-tricyclo[8.3.1.0*2,7*]tetradeca-2,4,6-triene
1-Chloroethyl chloroformate (3.8 mL) is added dropwise to a mixture of 1,11-dimethyl-11-aza-tricyclo[8.3.1.0*2,7*]tetradeca-2,4,6-triene (0.75 g) and NaHCO3 (2.9 g) in 1,2-dichloroethane (3.5 mL) chilled in an ice bath. The reaction mixture is warmed to room temperature in the cooling bath and stirred overnight. Then, dichloromethane (20 mL) is added and the precipitate is removed by filtration. The filtrate is concentrated under reduced pressure and the residue is dissolved in methanol (20 mL). The resulting solution is stirred at reflux temperature for 2 h. The solution is concentrated and the residue is purified by HPLC on reversed phase (water/MeCN/NH3) to give the title compound.

reactant | 1-Chloroethyl chloroformate | 3.8 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 1,11-dimethyl-11-aza-tricyclo[8.3.1.0*2,7*]tetradeca-2,4,6-triene | 0.75 g | CC12C3=CC=CC=C3CCC(N(CC1)C)C2 | C15H21N
reactant | NaHCO3 | 2.9 g | C(=O)(O)[O-].[Na+]
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | 1,2-dichloroethane | 3.5 mL | ClCCCl | C2H4Cl2
product | 1-Methyl-11-aza-tricyclo[8.3.1.0*2,7*]tetradeca-2,4,6-triene | CC12C3=CC=CC=C3CCC(NCC1)C2 | C14H19N
